US06399606B1
Methyl 3-{[(N-Methylcarbamoyl)methylthio]methyl}-4-oxo-4-(3-pyridyl)butanoate
A solution of methyl 3-(3-pyridylcarbonyl)but-3-enoate in dichloromethane (0.5 mL, 0.1 mM), triethylamine in dichloromethane (0.5 mL, 0.1 mM) and N-methyl-2-sulfanylacetamide (0.6 mL, 0.12 mmol) was stirred for 24 h. PS isocyanate resin (60 mg) was added to the reaction mixture and stirred for 24 h. The solution was filtered and concentrated to give the title compound in quantitative yield, ESMS, (M+1)+311.

reactant | methyl 3-(3-pyridylcarbonyl)but-3-enoate | N1=CC(=CC=C1)C(=O)C(CC(=O)OC)=C | C11H11NO3
reactant | N-methyl-2-sulfanylacetamide | 0.12 mmol, 0.6 mL | CNC(CS)=O | C3H7NOS
reactant | isocyanate | 60 mg | [N-]=C=O
solvent | dichloromethane | 0.1 mM, 0.5 mL | ClCCl | CH2Cl2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 0.1 mM, 0.5 mL | ClCCl | CH2Cl2
product | Methyl 3-{[(N-Methylcarbamoyl)methylthio]methyl}-4-oxo-4-(3-pyridyl)butanoate | quantitative yield | CNC(=O)CSCC(CC(=O)OC)C(C=1C=NC=CC1)=O | C14H18N2O4S
